US07405236B2
a] 5-(3-Trifluoromethoxy-phenyl)-pent-4-ynoic acid benzyl ester
To a degassed (Ar) solution of 1-iodo-3-trifluoromethoxy-benzene (0.54 ml, 3 mmol) in acetonitrile (30 ml) was added pent-4-ynoic acid benzyl ester (719 mg, 4 mmol; A. Rosowsky, R. A. Forsch, F. S. Queener, J. Med. Chem. 2003, 46, 1726-1736), PdCl2(Ph3P)2 (122 mg, 0.17 mmol), cuprous iodide (33 mg, 0.17 mmol) and triethylamine (1.45 ml, 10 mmol). The reaction mixture was stirred for 2.5 h at ambient temperature, poured into a solution of aqueous 10% KHSO4/ice water 1/1 and extracted two times with ether. The combined extracts were washed with aqueous 10% KHSO4 and aqueous 10% NaCl and dried over sodium sulfate. The solvent was removed under reduced pressure and the residue purified by flash chromatography (silica gel, heptane/AcOEt) to give 1.13 g (3.2 mmol, 93%) of the title compound as yellow oil.

reactant | 1-iodo-3-trifluoromethoxy-benzene | 3 mmol, 0.54 ml | IC1=CC(=CC=C1)OC(F)(F)F | C7H4F3IO
reactant | pent-4-ynoic acid benzyl ester | C(C1=CC=CC=C1)OC(CCC#C)=O | C12H12O2
reactant | triethylamine | 10 mmol, 1.45 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 5-(3-Trifluoromethoxy-phenyl)-pent-4-ynoic acid benzyl ester | 3.2 mmol, 1.13 g, 93% | C(C1=CC=CC=C1)OC(CCC#CC1=CC(=CC=C1)OC(F)(F)F)=O | C19H15F3O3
